US05792777
tert-Butyldimethylsilyl chloride (1.8 g) was added over 30 minutes to a stirred solution of 4-bromo-4'-hydroxybiphenyl (2.49 g) and imidazole (1.63 g) in dimethylformamide (15 ml) whilst keeping the temperature of the reaction mixture below 10° C. The reaction mixture was stirred at room temperature for 18 hours. Diethyl ether (225 ml) was added, the ether washed with saturated sodium hydrogen carbonate solution (3×60 ml) and brine (100 ml), dried (MgSO4) and evaporated to yield, as a colourless oil, 4-bromo-4'-(tert-butyldimethylsilyloxy)biphenyl (3.2 g); NMR (CDCl3): 0.2(6H, s), 1.0(9H, s), 6.8-6.9(2H, d), 7.3-7. 4(4H, m) and 7.45-7.55(2H, d).

reactant | tert-Butyldimethylsilyl chloride | 1.8 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | 4-bromo-4'-hydroxybiphenyl | 2.49 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O | C12H9BrO
reactant | imidazole | 1.63 g | N1C=NC=C1 | C3H4N2
reactant | Diethyl ether | 225 ml | C(C)OCC | C4H10O
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-bromo-4'-(tert-butyldimethylsilyloxy)biphenyl | 3.2 g | BrC1=CC=C(C=C1)C1=CC=C(C=C1)O[Si](C)(C)C(C)(C)C | C18H23BrOSi
